US05811553
2-(2-furyl)quinoline-4-carboxylic acid chloride
5.2 ml (60.4 mmol) of oxalyl chloride were dissolved in 70 ml of CH2 Cl2. The solution was cooled at -10° C. and 8.5 g (35.5 mmol) of 2-(2-furyl)quinoline-4-carboxylic acid were added portionwise. The reaction mixture was left overnight at room temperature and then evaporated to dryness to yield 9.2 g of the title compound, used without further purification.

reactant | oxalyl chloride | 60.4 mmol, 5.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(2-furyl)quinoline-4-carboxylic acid | 35.5 mmol, 8.5 g | O1C(=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C14H9NO3
solvent | Cl2 | ClCl | Cl2
product | 2-(2-furyl)quinoline-4-carboxylic acid chloride | 9.2 g | O1C(=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)Cl | C14H8ClNO2
